US07371763B2
A solution of 2-amino-4-tert-butylpyridine (192 mg) and 2,3-dichlorophenyl isocyanate (240 mg) in anh. toluene (15 mL) was heated at 70° C. under argon for 24 h. The resulting mixture was diluted with EtOAc (200 mL) then washed with water (125 mL). The organic layer was dried (MgSO4) and concentrated under reduced pressure to give a gum. Trituration of the gum with hexanes afforded N-(4-tert-butylpyridyl)-N′-(2,3-dichlorophenyl) urea as a white solid (394 mg, 91%): TLC (2:1 hexanes/ethyl acetate) Rf 0.40; FAB-MS m/z 338 ((M+H)+). B2a. Reaction of a Heterocyclic Amine with N,N′-Carbonyldiimidazole Followed By Reaction with a Substituted Aniline

reactant | 2-amino-4-tert-butylpyridine | 192 mg | NC1=NC=CC(=C1)C(C)(C)C | C9H14N2
reactant | 2,3-dichlorophenyl isocyanate | 240 mg | ClC1=C(C=CC=C1Cl)N=C=O | C7H3Cl2NO
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | N-(4-tert-butylpyridyl)-N′-(2,3-dichlorophenyl) urea | 394 mg, 91% | C(C)(C)(C)C1=CC(=NC=C1)NC(=O)NC1=C(C(=CC=C1)Cl)Cl | C16H17Cl2N3O
